US09403807B2
Step A: tert-butyl 1-(3-(4-chlorophenyl)pent-1-yn-3-yl)-1H-indol-4-ylcarbamate
A mixture of tert-butyl 1-(2-(4-chlorophenyl)-1-oxobutan-2-yl)-1H-indol-4-ylcarbamate (500 mg, 1.21 mmol), as described in Example 21 Step B, and dimethyl 1-diazo-2-oxopropylphosphonate (244 mg, 1.27 mmol) in MeOH (10 mL) was stirred at rt for 4 hours. After removing the solvent in vacuo, the residue was purified via column chromatography (0-30% EtOAc/hexanes) to provide the title compound.

reactant | tert-butyl 1-(2-(4-chlorophenyl)-1-oxobutan-2-yl)-1H-indol-4-ylcarbamate | 1.21 mmol, 500 mg | ClC1=CC=C(C=C1)C(C=O)(CC)N1C=CC2=C(C=CC=C12)NC(OC(C)(C)C)=O | C23H25ClN2O3
reactant | dimethyl 1-diazo-2-oxopropylphosphonate | 1.27 mmol, 244 mg | [N+](=[N-])=C(C(C)=O)P(OC)(OC)=O | C5H9N2O4P
solvent | MeOH | 10 mL | CO | CH4O
product | tert-butyl 1-(3-(4-chlorophenyl)pent-1-yn-3-yl)-1H-indol-4-ylcarbamate | ClC1=CC=C(C=C1)C(C#C)(CC)N1C=CC2=C(C=CC=C12)NC(OC(C)(C)C)=O | C24H25ClN2O2
